US06121271
Acetic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenyl ester
Using 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenol (5.0 g, 13.7 mmol), acetic anhydride (1.68 mL, 17.8 mmol), and pyridine (85 mL) the title compound was prepared according to the procedure in Example 2, step 3 to give 5.37 g (91%) as a white solid, mp 243-245° C.; NMR (DMSO-d6) δ 8.49 (s, 1 H), 7.98 (d, 1 H), 7.49-7.39 (m, 3 H), 7.16 (s, 2 H), 3.01 (septet, 2 H), 2.43 (s, 3 H), 2.41 (s, 3 H), 1.56 (s, 3 H), 1.16 (d, 12 H). MS(EI), [M+] 430; Anal. Calc. for C28H30O2S: C, 78.10, H, 7.02, N, 0.00. Found: C, 77.95, H, 7.04, N, 0.07.

reactant | 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenol | 13.7 mmol, 5.0 g | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)C(C)C)O)C(C)C)C | C26H28OS
reactant | acetic anhydride | 17.8 mmol, 1.68 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 85 mL | N1=CC=CC=C1 | C5H5N
product | Acetic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diisopropyl-phenyl ester | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)C(C)C)OC(C)=O)C(C)C)C | C28H30O2S
